US07700598B2
128e methyl(R)-3-[3,5-dibromo-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-2-hydroxy-propionate
Under a nitrogen atmosphere 11.1 g (76.6 mmol) 40% KF/Al2O3 were added to a solution of 6.78 g (19.2 mmol) methyl(R)-3-(3,5-dibromo-4-hydroxy-phenyl)-2-hydroxy-propionate in 100 mL acetonitrile and the resulting suspension was stirred for a few minutes at RT. Subsequently a solution of 4.07 mL (23.0 mmol) (2-chloromethoxy-ethyl)-trimethyl-silane in 20 mL acetonitrile was added and the reaction mixture was stirred for 20 h at RT. The mixture was filtered through Celite, the solvent was evaporated down i.vac. and the residue was purified by chromatography (silica gel, n-hexane/EtOAc 7:3).

reactant | methyl(R)-3-(3,5-dibromo-4-hydroxy-phenyl)-2-hydroxy-propionate | 19.2 mmol, 6.78 g | BrC=1C=C(C=C(C1O)Br)C[C@H](C(=O)OC)O | C10H10Br2O4
reactant | (2-chloromethoxy-ethyl)-trimethyl-silane | 23.0 mmol, 4.07 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | methyl(R)-3-[3,5-dibromo-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-2-hydroxy-propionate | BrC=1C=C(C=C(C1OCOCC[Si](C)(C)C)Br)C[C@H](C(=O)OC)O | C16H24Br2O5Si
